### PR TITLE
feat: basic sign sequences

### PR DESCRIPTION
**Pull request by plp127**
I haven't used these for anything yet so I don't know what lemmas would be useful. This resulted me in just proving a bunch of random stuff.

### CODE REVIEW

File: CombinatorialGames/NatOrdinal.lean [hunk 1]
```diff
@@ -97,7 +97,7 @@ instance (o : NatOrdinal.{u}) : Small.{u} (Iio o) :=
   inferInstanceAs (Small (Iio o.toOrdinal))
 
 @[simp]
-theorem bot_eq_zero : ⊥ = 0 :=
+theorem bot_eq_zero : (⊥ : NatOrdinal) = 0 :=
```
Comment (vihdzp) [inline CombinatorialGames/NatOrdinal.lean:103]: Huh, I could have sworn I had fixed that already.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,370 @@
...
+
+/-!
+# Sign Expansions
+
+We define the type of sign expansions and prove they for a complete lattice.
+-/
+
+namespace SignType
+noncomputable instance : CompleteLinearOrder SignType := Fintype.toCompleteLinearOrder SignType
+instance : SuccOrder SignType where
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:21]: This belongs in Mathlib! Can you leave a to-do?

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,370 @@
...
+  le_pred_of_lt := by decide
+
+@[simp] theorem succ_neg_one : Order.succ (-1 : SignType) = 0 := rfl
+@[simp] theorem succ_zero : Order.succ (0 : SignType) = 1 := rfl
+@[simp] theorem succ_one : Order.succ (1 : SignType) = 1 := rfl
+@[simp] theorem pred_neg_one : Order.pred (-1 : SignType) = -1 := rfl
+@[simp] theorem pred_zero : Order.pred (0 : SignType) = -1 := rfl
+@[simp] theorem pred_one : Order.pred (1 : SignType) = 0 := rfl
+
+@[simp] theorem neg_eq_zero : ∀ a : SignType, -a = 0 ↔ a = 0 := by decide
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:45]: This should be implied by `NegZeroClass` and `InvolutiveNeg`. That's another Mathlib TODO.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,370 @@
...
+end SignType
+
+theorem OrderIso.isSuccPreimit_apply {α β : Type*} [Preorder α] [Preorder β] {e : α ≃o β} {a : α} :
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:48]: This already exists as `InitialSeg.map_isSuccPrelimit`.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,370 @@
...
+    Order.IsSuccPrelimit (e a) ↔ Order.IsSuccPrelimit a := by
+  rw [Order.IsSuccPrelimit, ← e.forall_congr_right, Order.IsSuccPrelimit]
+  simp
+
+theorem OrderIso.isSuccLimit_apply {α β : Type*} [Preorder α] [Preorder β] {e : α ≃o β} {a : α} :
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:53]: Likewise, this is `InitialSeg.map_isSuccLimit`.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,370 @@
...
+    Order.IsSuccLimit (e a) ↔ Order.IsSuccLimit a := by
+  rw [Order.IsSuccLimit, e.isMin_apply, e.isSuccPreimit_apply, Order.IsSuccLimit]
+
+universe u
+
+noncomputable section
+
+structure SignExpansion : Type (u + 1) where
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:64]: This should have a docstring, perhaps along the lines of
```
/-- A sign expansion is an ordinal-indexed sequence of `1`s and `-1`s followed by `0`s. -/
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,370 @@
...
+    (isUpperSet_sign_preimage_singleton_zero : IsUpperSet (sign ⁻¹' {0})) :
+    ⇑{sign, isUpperSet_sign_preimage_singleton_zero : SignExpansion.{u}} = sign := rfl
+
+@[simp]
+theorem sign_eq_coe (e : SignExpansion.{u}) : e.sign = ⇑e := rfl
+
+theorem apply_eq_zero_of_le {e : SignExpansion} {o o' : Ordinal.{u}}
+    (hoo' : o ≤ o') (ho : e o = 0) : e o' = 0 := e.isUpperSet_sign_preimage_singleton_zero hoo' ho
+
+noncomputable def size (e : SignExpansion.{u}) : WithTop NatOrdinal.{u} :=
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: I think this should be called `length` by analogy with lists. A sample docstring:
```
/-- The length of a sign sequence is the least index where it equals `0`. -/

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,370 @@
...
+  ⨅ (i : NatOrdinal.{u}) (_ : e i = 0), WithTop.some i
+
+theorem apply_of_size_le {e : SignExpansion.{u}} {o : NatOrdinal.{u}} (h : e.size ≤ o) :
+    e o = 0 := by
+  cases he : e.size with
+  | top => simp [he] at h
+  | coe g =>
+    rw [he, WithTop.coe_le_coe, ← lt_succ_iff,
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:103]: Doesn't `ciInf_mem` give you an easier proof here? You might have to redefine `size` as an infimum over a subtype.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,370 @@
...
+      ← WithTop.coe_lt_coe, ← he, size] at h
+    simp_rw [iInf_lt_iff, WithTop.coe_lt_coe, lt_succ_iff] at h
+    obtain ⟨i, hi, hio⟩ := h
+    exact e.apply_eq_zero_of_le hio hi
+
+@[simp]
+theorem apply_eq_zero {x : SignExpansion.{u}} {o : NatOrdinal.{u}} :
+    x o = 0 ↔ x.size ≤ o :=
+  ⟨fun h => iInf₂_le o h, apply_of_size_le⟩
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: (untested)
```suggestion
  ⟨iInf₂_le o, apply_of_size_le⟩
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,370 @@
...
+
+def restrict (x : SignExpansion.{u}) (o : WithTop NatOrdinal.{u}) : SignExpansion.{u} where
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:119]: Sample docstring:
```
/-- Restrict the domain of a sign expansion to an ordinal. -/
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,370 @@
...
+  sign i := if i < o then x.sign i else 0
+  isUpperSet_sign_preimage_singleton_zero := by
+    intro a b hab ha
+    rw [← WithTop.coe_le_coe] at hab
+    simp only [sign_eq_coe, Set.mem_preimage, Set.mem_singleton_iff, ite_eq_right_iff,
+      apply_eq_zero] at ha ⊢
+    exact fun hb => (ha (hab.trans_lt hb)).trans hab
+
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:127]: You should prove `restrict_top : restrict x top = x` and `restrict_zero : restrict x 0 = 0`.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,370 @@
...
+theorem lt_iff_toLex {a b : SignExpansion.{u}} : a < b ↔ toLex ⇑a < toLex ⇑b := Iff.rfl
+
+instance : Bot SignExpansion.{u} where
+  bot := {
+    sign _ := -1
+    isUpperSet_sign_preimage_singleton_zero := by simp [isUpperSet_empty]
+  }
+
+@[simp]
+theorem coe_bot : ⇑(⊥ : SignExpansion.{u}) = ⊥ := rfl
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: There's a `bot` instance on functions?

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,370 @@
...
+    (x.restrict o).size = min x.size o := by
+  apply eq_of_forall_ge_iff
+  intro c
+  cases c with
+  | top => simp
+  | coe c =>
+    rw [← apply_eq_zero, restrict]
+    simp [imp_iff_or_not]
+
+theorem restrict_apply_of_lt {x : SignExpansion.{u}} {o₁ o₂ : NatOrdinal.{u}}
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]:
```suggestion
theorem restrict_apply_of_gt {x : SignExpansion.{u}} {o₁ o₂ : NatOrdinal.{u}}
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,370 @@
...
+@[simp]
+theorem coe_top : ⇑(⊤ : SignExpansion.{u}) = ⊤ := rfl
+
+theorem top_apply (o : NatOrdinal.{u}) : (⊤ : SignExpansion.{u}) o = 1 := rfl
+
+instance : BoundedOrder SignExpansion.{u} where
+  le_top _ := le_iff_toLex.2 <| Pi.toLex_monotone (by simp)
+  bot_le _ := le_iff_toLex.2 <| Pi.toLex_monotone (by simp)
+
+section CompleteLattice
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: Everything past here seems... Convoluted, to say the least. Maybe that can be split into a new PR?

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 3 above)
Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean:45]: I tried that. Unfortunately, `NegZeroClass` and `InvolutiveNeg` both carry their own negation, and I don't have a good way of enforcing that they're the same.

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 12 above)
Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean]: Functions are ordered, with the pointwise order (`a ≤ b ↔ ∀ c, a c ≤ b c`)

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 9 above)
Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean]: Doesn't work :(

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 8 above)
Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean:103]: I would have to somehow get `Nonempty {i // e i = 0}` for that to work.

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 4 above)
Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean:48]: It's not the same

Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean:48]: We have `InitialSeg.map_succ` too, but we also have `OrderIso.map_succ`

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 14 above)
Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean]: are my arguments convoluted? this seems pretty standard to me

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 4 above)
Comment (vihdzp) [reply CombinatorialGames/SignExpansion/Basic.lean:48]: It's not the same, but it follows directly from it (every order iso is an initial segment). You should PR it to Mathlib if you think it could be useful.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,219 @@
...
+
+noncomputable section
+
+/--
+A sign expansion is a an ordinal indexed sequence of `1`s and `-1`s, followed by `0`s.
+-/
+structure SignExpansion : Type (u + 1) where
+  /--
+  The sequence defining the sign expansion
+  -/
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: I prefer this style of comments
```suggestion
  /-- The sequence defining the sign expansion -/
```
But I guess it's a matter of preference.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,219 @@
...
+  sign : NatOrdinal.{u} → SignType
+  isUpperSet_sign_preimage_singleton_zero : IsUpperSet (sign ⁻¹' {0})
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:68]: This could use its own docstring, perhaps:
```
/-- Every sign after the first zero is also zero. -/

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,219 @@
...
+instance : Top SignExpansion.{u} where
+  top := {
+    sign _ := 1
+    isUpperSet_sign_preimage_singleton_zero := by simp [isUpperSet_empty]
+  }
+
+@[simp]
+theorem top_apply (o : NatOrdinal.{u}) : (⊤ : SignExpansion.{u}) o = 1 := rfl
+
+instance boundedOrder : BoundedOrder SignExpansion.{u} where
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: I generally prefer letting instance names be auto-filled, unless we ever need to call them explicitly.
```suggestion
instance : BoundedOrder SignExpansion.{u} where
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,219 @@
...
+  le_top _ := le_iff_toLex.2 <| Pi.toLex_monotone (by simp [Pi.le_def])
+  bot_le _ := le_iff_toLex.2 <| Pi.toLex_monotone (by simp [Pi.le_def])
+
+instance biheytingAlgebra : BiheytingAlgebra SignExpansion.{u} :=
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: Do we actually need to use anything from this instance? I think we can omit this and declare it when we get the full complete linear order instance.

File: CombinatorialGames/SignExpansion/Small.lean [hunk 19]
```diff
@@ -0,0 +1,112 @@
+/-
+Copyright (c) 2025 Aaron Liu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Aaron Liu
+-/
+import CombinatorialGames.SignExpansion.Basic
+
+/-!
+# Small sign expansions
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Small.lean]: I'd also rather have this file in a separate PR. Every PR should focus on a single thing!

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,216 @@
...
+    cases a; cases b; cases hab; rfl
+
+@[ext]
+protected theorem ext {x y : SignExpansion.{u}} (hxy : ∀ o, x o = y o) : x = y :=
+  DFunLike.coe_injective (funext hxy)
+
+@[simp]
+theorem coe_mk (sign : NatOrdinal.{u} → SignType)
+    (isUpperSet_sign_preimage_singleton_zero : IsUpperSet (sign ⁻¹' {0})) :
+    ⇑{sign, isUpperSet_sign_preimage_singleton_zero : SignExpansion.{u}} = sign := rfl
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:85]:
```suggestion
@[simp]
theorem coe_mk (f : NatOrdinal → SignType) (h : IsUpperSet (f ⁻¹' {0})) :
    SignExpansion.mk f h = f := rfl
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,216 @@
...
+namespace SignExpansion
+open Order Set
+
+instance : FunLike SignExpansion.{u} NatOrdinal.{u} SignType where
+  coe := sign
+  coe_injective' a b hab := by
+    cases a; cases b; cases hab; rfl
+
+@[ext]
+protected theorem ext {x y : SignExpansion.{u}} (hxy : ∀ o, x o = y o) : x = y :=
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:79]: There's a lot of redundant universe annotations in this file. I guess they can't hurt, but maybe we should keep them to the theorems that actually need to reason about universes.
```suggestion
protected theorem ext {x y : SignExpansion} (hxy : ∀ o, x o = y o) : x = y :=
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,216 @@
...
+    Order.IsSuccLimit (e a) ↔ Order.IsSuccLimit a := by
+  rw [Order.IsSuccLimit, e.isMin_apply, e.isSuccPreimit_apply, Order.IsSuccLimit]
+
+universe u
+
+noncomputable section
+
+/--
+A sign expansion is a an ordinal indexed sequence of `1`s and `-1`s, followed by `0`s.
+-/
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:63]: Sorry to pester, but I'd rather have the repo use a single comment style. Same below.
```suggestion
/-- A sign expansion is a an ordinal indexed sequence of `1`s and `-1`s, followed by `0`s. -/
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,216 @@
...
+theorem apply_of_length_le {e : SignExpansion.{u}} {o : NatOrdinal.{u}} (h : e.length ≤ o) :
+    e o = 0 := by
+  cases he : e.length with
+  | top => simp [he] at h
+  | coe g =>
+    rw [he, WithTop.coe_le_coe, ← lt_succ_iff,
+      ← WithTop.coe_lt_coe, ← he, length] at h
+    simp_rw [iInf_lt_iff, WithTop.coe_lt_coe, lt_succ_iff] at h
+    obtain ⟨i, hi, hio⟩ := h
+    exact e.apply_eq_zero_of_le hio hi
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:107]: This is what I meant in my other comment:
```suggestion
  sInf ((↑) '' (e ⁻¹' {0}))

theorem apply_of_length_le {e : SignExpansion} {o : NatOrdinal} (h : e.length ≤ o) :
    e o = 0 := by
  obtain he | he := eq_empty_or_nonempty (WithTop.some '' (e ⁻¹' {0}))
  · simp_all [length]
  · obtain ⟨a, ha, ha'⟩ := csInf_mem he
    apply apply_eq_zero_of_le _ ha
    rwa [← WithTop.coe_le_coe, ha']
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,216 @@
...
+@[simp]
+theorem length_restrict (x : SignExpansion.{u}) (o : WithTop NatOrdinal.{u}) :
+    (x.restrict o).length = min x.length o := by
+  apply eq_of_forall_ge_iff
+  intro c
+  cases c with
+  | top => simp
+  | coe c =>
+    rw [← apply_eq_zero, restrict]
+    simp [imp_iff_or_not, apply_eq_zero]
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:137]:
```suggestion
theorem length_restrict (x : SignExpansion) (o : WithTop NatOrdinal) :
    (x.restrict o).length = min x.length o := by
  refine eq_of_forall_ge_iff fun c ↦ ?_
  cases c <;> simp [← apply_eq_zero, restrict, imp_iff_or_not]
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,216 @@
...
+    x o = 0 ↔ x.length ≤ o :=
+  ⟨fun h => iInf₂_le o h, apply_of_length_le⟩
+
+theorem length_eq_top {x : SignExpansion.{u}} : x.length = ⊤ ↔ ∀ o, x o ≠ 0 := by
+  simpa [apply_eq_zero] using WithTop.eq_top_iff_forall_gt
+
+/--
+Cut off the part of a sign expansion after an ordinal `o`, by filling it in with `0`.
+-/
+def restrict (x : SignExpansion.{u}) (o : WithTop NatOrdinal.{u}) : SignExpansion.{u} where
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:119]: Out of curiosity does this represent any operation on surreals? I'm fine with having it either way.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,216 @@
...
+  intro c
+  cases c with
+  | top => simp
+  | coe c =>
+    rw [← apply_eq_zero, restrict]
+    simp [imp_iff_or_not, apply_eq_zero]
+
+theorem restrict_apply_of_coe_lt {x : SignExpansion.{u}} {o₁ : WithTop NatOrdinal.{u}}
+    {o₂ : NatOrdinal.{u}} (h : o₂ < o₁) : x.restrict o₁ o₂ = x o₂ := by
+  simp [restrict, h]
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:141]:
```suggestion
  if_pos h
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,216 @@
...
+
+theorem restrict_apply_of_le_coe {x : SignExpansion.{u}} {o₁ : WithTop NatOrdinal.{u}}
+    {o₂ : NatOrdinal.{u}} (h : o₁ ≤ o₂) : x.restrict o₁ o₂ = 0 := by
+  simp [restrict, h]
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:145]:
```suggestion
  if_neg h.not_gt
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,216 @@
...
+
+@[simp]
+theorem restrict_of_length_le {e : SignExpansion.{u}} {o : WithTop NatOrdinal.{u}}
+    (ho : e.length ≤ o) : e.restrict o = e := by
+  ext o'
+  obtain ho' | ho' := lt_or_ge (.some o') e.length
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:151]:
```suggestion
  obtain ho' | ho' := lt_or_ge (↑o') e.length
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,216 @@
...
+@[simp]
+theorem zero_apply (o : NatOrdinal.{u}) : (0 : SignExpansion.{u}) o = 0 := rfl
+
+theorem restrict_zero (e : SignExpansion.{u}) : e.restrict 0 = 0 := by
+  ext; simp [apply_eq_zero]
+
+@[simp]
+theorem length_zero : length 0 = 0 := by
+  rw [← restrict_zero 0, length_restrict, ← WithTop.coe_zero,
+    ← NatOrdinal.bot_eq_zero, WithTop.coe_bot, min_bot_right]
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:174]: With my `length` redefinition, you can do this:
```suggestion
theorem length_zero : length 0 = 0 := csInf_eq_bot_of_bot_mem <| by simp
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 30]
```diff
@@ -0,0 +1,216 @@
...
+theorem length_eq_top {x : SignExpansion.{u}} : x.length = ⊤ ↔ ∀ o, x o ≠ 0 := by
+  simpa [apply_eq_zero] using WithTop.eq_top_iff_forall_gt
+
+/--
+Cut off the part of a sign expansion after an ordinal `o`, by filling it in with `0`.
+-/
+def restrict (x : SignExpansion.{u}) (o : WithTop NatOrdinal.{u}) : SignExpansion.{u} where
+  sign i := if i < o then x.sign i else 0
+  isUpperSet_sign_preimage_singleton_zero := by
+    intro a b hab ha
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:122]:
```suggestion
  isUpperSet_sign_preimage_singleton_zero a b hab ha := by
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 31]
```diff
@@ -0,0 +1,216 @@
...
+theorem lt_iff_toLex {a b : SignExpansion.{u}} : a < b ↔ toLex ⇑a < toLex ⇑b := Iff.rfl
+
+instance : Bot SignExpansion.{u} where
+  bot := {
+    sign _ := -1
+    isUpperSet_sign_preimage_singleton_zero := by simp [isUpperSet_empty]
+  }
+
+@[simp]
+theorem bot_apply (o : NatOrdinal.{u}) : (⊥ : SignExpansion.{u}) o = -1 := rfl
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:189]:
```suggestion
@[simp] theorem coe_bot : ⇑(⊥ : SignExpansion) = -1 := rfl
theorem bot_apply (o : NatOrdinal) : (⊥ : SignExpansion) o = -1 := rfl
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 32]
```diff
@@ -0,0 +1,216 @@
...
+
+instance : Top SignExpansion.{u} where
+  top := {
+    sign _ := 1
+    isUpperSet_sign_preimage_singleton_zero := by simp [isUpperSet_empty]
+  }
+
+@[simp]
+theorem top_apply (o : NatOrdinal.{u}) : (⊤ : SignExpansion.{u}) o = 1 := rfl
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:198]:
```suggestion
@[simp] theorem coe_top : ⇑(⊤ : SignExpansion) = 1 := rfl
theorem top_apply (o : NatOrdinal) : (⊤ : SignExpansion) o = 1 := rfl
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 33]
```diff
@@ -0,0 +1,216 @@
...
+
+instance : BoundedOrder SignExpansion.{u} where
+  le_top _ := le_iff_toLex.2 <| Pi.toLex_monotone (by simp [Pi.le_def])
+  bot_le _ := le_iff_toLex.2 <| Pi.toLex_monotone (by simp [Pi.le_def])
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:202]:
```suggestion
  le_top _ := le_iff_toLex.2 le_top
  bot_le _ := le_iff_toLex.2 bot_le
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 34]
```diff
@@ -0,0 +1,216 @@
...
+
+instance : Neg SignExpansion.{u} where
+  neg e := {
+    sign := -e
+    isUpperSet_sign_preimage_singleton_zero a b hab ha := by
+      simp only [mem_preimage, Pi.neg_apply, mem_singleton_iff, SignType.neg_eq_zero,
+        apply_eq_zero] at ha ⊢
+      exact ha.trans (WithTop.coe_le_coe.2 hab)
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:210]:
```suggestion
      convert e.isUpperSet_sign_preimage_singleton_zero using 1
      ext
      simp
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 35]
```diff
@@ -0,0 +1,216 @@
...
+  }
+
+@[simp]
+theorem neg_apply (e : SignExpansion) (o : Ordinal) : (-e) o = -e o := rfl
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:214]:
```suggestion
@[simp] theorem coe_neg (e : SignExpansion) : ⇑(-e) = -e := rfl
theorem neg_apply (e : SignExpansion) (o : Ordinal) : (-e) o = -e o := rfl
```

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 36]
```diff
@@ -0,0 +1,216 @@
...
+
+instance : Neg SignExpansion.{u} where
+  neg e := {
+    sign := -e
+    isUpperSet_sign_preimage_singleton_zero a b hab ha := by
+      simp only [mem_preimage, Pi.neg_apply, mem_singleton_iff, SignType.neg_eq_zero,
+        apply_eq_zero] at ha ⊢
+      exact ha.trans (WithTop.coe_le_coe.2 hab)
+  }
+
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:212]: You should add a `NegZeroClass SignExpansion`.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 37]
```diff
@@ -0,0 +1,216 @@
...
+@[simp]
+theorem neg_apply (e : SignExpansion) (o : Ordinal) : (-e) o = -e o := rfl
+
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean:215]: Might as well
```suggestion

@[simp] theorem neg_bot : -(⊥ : SignExpansion) = ⊤ := rfl
@[simp] theorem neg_top : -(⊤ : SignExpansion) = ⊥ := rfl

```

File: CombinatorialGames/SignExpansion/Basic.lean (hunk 25 above)
Comment (plp127) [reply CombinatorialGames/SignExpansion/Basic.lean:119]: Given a surreal `x`, and an ordinal `o`, form the set `s` to be `{ k ∈ Iio x | birthday k < o }` and form the set `t` to be `{ k ∈ Ioi x | birthday k < o }`, then the sign expansion of `{s | t}ˢ` is the restriction of the sign expansion of `x` to `o`. The other case of restricting to top is trivial.

File: CombinatorialGames/SignExpansion/Basic.lean [hunk 38]
```diff
@@ -0,0 +1,216 @@
...
+theorem restrict_zero (e : SignExpansion.{u}) : e.restrict 0 = 0 := by
+  ext; simp [apply_eq_zero]
+
+@[simp]
+theorem length_zero : length 0 = 0 := by
+  rw [← restrict_zero 0, length_restrict, ← WithTop.coe_zero,
+    ← NatOrdinal.bot_eq_zero, WithTop.coe_bot, min_bot_right]
+
+instance linearOrder : LinearOrder SignExpansion.{u} :=
+  LinearOrder.lift' (toLex ⇑·) (by simp [Function.Injective])
```
Comment (vihdzp) [inline CombinatorialGames/SignExpansion/Basic.lean]: Just to make sure, this isn't the colexicographic ordering that we mean, right?
